US07232592B2
Ethanol (70 ml), ethyl acetate (30 ml) and 5% palladium-carbon (450 mg) were added to 4,5,6-trifluoro-2-(trans-4-propylcyclohexyl)indene (4.5 g), and stirred for 1 hour in a hydrogen atmosphere. The reaction solution was filtered with celite, the filtrate was concentrated, and the residue was purified with a silica gel short column (hexane) to obtain 4,5,6-trifluoro-2-(trans-4-propylcyclohexyl)indane (4.5 g). Moreover, this was then recrystallized from ethanol to obtain 4,5,6-trifluoro-2-(trans-4-propylcyclohexyl)indane (4.5 g, purity: 99.8%). The melting point of this compound was 52° C.

reactant | Ethanol | 70 ml | C(C)O | C2H6O
reactant | 4,5,6-trifluoro-2-(trans-4-propylcyclohexyl)indene | 4.5 g | FC1=C2C=C(CC2=CC(=C1F)F)[C@@H]1CC[C@H](CC1)CCC | C18H21F3
reactant | hydrogen | [H][H] | H2
catalyst | palladium-carbon | 450 mg | [C].[Pd]
solvent | ethyl acetate | 30 ml | C(C)(=O)OCC | C4H8O2
product | 4,5,6-trifluoro-2-(trans-4-propylcyclohexyl)indane | 4.5 g | FC1=C2CC(CC2=CC(=C1F)F)[C@@H]1CC[C@H](CC1)CCC | C18H23F3
